US06107365
Synthesis of 4,8-dithianonanol
To a mixture of 3-methylthio-1-propanol tosylate (14.14 g, 54.3 mmol), and 3-mercapto-1-propanol (5.0 g, 54.3 mmol) in dry THF (300 mL) was added potassium tert-butoxide (8.51 g, 80.0 mmol) in one portion under a blanket of nitrogen, and the resulting mixture was stirred at room temperature for 24 hours. Water (10 mL) was added drop-wise to the reaction mixture to quench excess potassium tert-butoxide, and solvent was evaporated under reduced pressure. The resulting solid was washed with ether (3×100 mL), and filtered. The ether layer was washed with water (3×100 mL) and dried (Na2SO4). Solvent evaporation produced 8.7 g of a light yellow oil. This product was used for acryloylation without further purification.

reactant | 3-methylthio-1-propanol tosylate | 54.3 mmol, 14.14 g | S(=O)(=O)(C1=CC=C(C)C=C1)OCCCSC | C11H16O3S2
reactant | 3-mercapto-1-propanol | 54.3 mmol, 5.0 g | SCCCO | C3H8OS
reactant | potassium tert-butoxide | 80.0 mmol, 8.51 g | CC(C)([O-])C.[K+]
reactant | Water | 10 mL | O | H2O
solvent | THF | 300 mL | C1CCOC1 | C4H8O
product | 4,8-dithianonanol | 8.7 g | C(CCSCCCSC)O | C7H16OS2
